US04435385
(g) BOC-Phe-(D)Trp-Lys(Z)-OMe
9.5 ml NEt3, 13 g HOBT and 17 g BOC-Phe-OH are added to 35 g H-(D)Trp-Lys(Z)-OMe hydrochloride in 350 ml DMF. The solution is cooled to -20° C. and 14.5 g DCCI dissolved in 50 ml DMF are added. The reaction mixture is stirred for ca. 18 hrs. at 0° C. and then for 1 day at room temperature. The precipitated dicyclohexyl-urea is filtered off and the filtrate is concentrated, diluted with methanol and H2O added until precipitation occurs. After filtration the residue is washed with MeOH/H2O (4:1) and dried to yield the title compound:

reactant | HOBT | 13 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | BOC-Phe-OH | 17 g | N([C@@H](CC1=CC=CC=C1)C(=O)O)C(=O)OC(C)(C)C | C14H19NO4
reactant | H-(D)Trp-Lys(Z)-OMe hydrochloride | 35 g | N[C@H](CC1=CNC2=CC=CC=C12)C(=O)N[C@@H](CCCCNC(=O)OCC1=CC=CC=C1)C(=O)OC.Cl
reactant | DCCI | 14.5 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
solvent | DMF | 350 ml | CN(C)C=O | C3H7NO
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
solvent | NEt3 | 9.5 ml | CCN(CC)CC | C6H15N
product | BOC-Phe-(D)Trp-Lys(Z)-OMe | N([C@@H](CC1=CC=CC=C1)C(=O)N[C@H](CC1=CNC2=CC=CC=C12)C(=O)N[C@@H](CCCCNC(=O)OCC1=CC=CC=C1)C(=O)OC)C(=O)OC(C)(C)C | C40H49N5O8
